US05256675
A mixture of 2-acetylamino-5-(4-methoxyphenylthio)thiazole (1.7 g) in a mixture of ethanol (40 ml) and aqueous 6N hydrochloric acid (6 ml) was refluxed for 4 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in water. The solution was adjusted to pH 10 using aqueous sodium hydroxide under cooling. The precipitates were collected by filtration, washed with water and recrystallized from ethanol to give 2-amino-5-(4-methoxyphenylthio)thiazole (1.25 g, yield: 86.8%). mp: 119°-120° C.

reactant | 2-acetylamino-5-(4-methoxyphenylthio)thiazole | 1.7 g | C(C)(=O)NC=1SC(=CN1)SC1=CC=C(C=C1)OC | C12H12N2O2S2
reactant | hydrochloric acid | 6N, 6 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-amino-5-(4-methoxyphenylthio)thiazole | 1.25 g, yield: 86.8% | NC=1SC(=CN1)SC1=CC=C(C=C1)OC | C10H10N2OS2
